US03996255
dl-3-Ethynyl-1-Iodo-3-Trimethylsilyloxyl-1-Octene
A solution of 2.78 g. of dl-3-ethynyl-1-iodo-1-octen-3-ol in 15 ml. of tetrahydrofuran is treated at 0° C. with 6 ml. of hexamethyldisilazane, 0.5 ml. of trimethylsilylchloride and 1.0 g. of imidazole. The mixture is stirred at 25° C. for 15 minutes and then evaporated with a water pump. The residue is extracted with n-hexane and the extract passed through alumina to afford the title product as an oil, 3.50 g.

reactant | 3-ethynyl-1-iodo-1-octen-3-ol | C(#C)C(C=CI)(CCCCC)O | C10H15IO
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylsilylchloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Ethynyl-1-Iodo-3-Trimethylsilyloxyl-1-Octene | C(#C)C(C=CI)(CCCCC)O[Si](C)(C)C | C13H23IOSi
